US05635510
56.1 Synthesis of 4-(tert-butyldimethylsilyloxy)-phenyl-acetonitrile
Combine tert-butyldimethylsilyl chloride (0.460 mol), imidazole (0.600 mol) and DMF (125 mL). Add 4-hydroxyphenylacetonitrile (0.400 mol) and maintain at ambient temperature for 16 h. Dilute with ether (500 mL), extract with water (4×75 mL), saturated sodium chloride (75 mL), dry over MgSO4, filter, and concentrate in vacuo to obtain a residue. Chromatograph on silica gel to obtain the title compound.

reactant | tert-butyldimethylsilyl chloride | 0.460 mol | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | imidazole | 0.600 mol | N1C=NC=C1 | C3H4N2
reactant | DMF | 125 mL | CN(C)C=O | C3H7NO
reactant | 4-hydroxyphenylacetonitrile | 0.400 mol | OC1=CC=C(C=C1)CC#N | C8H7NO
solvent | ether | 500 mL | CCOCC | C4H10O
product | 4-(tert-butyldimethylsilyloxy)-phenyl-acetonitrile | [Si](C)(C)(C(C)(C)C)OC1=CC=C(C=C1)CC#N | C14H21NOSi
